US04221811
A solution of 115 ml of 2.7 N butylmagnesium bromide in diethyl ether was added in about one hour to a solution of 62.5 g (0.15 mol) of (3-bromopropyl)methyltin dibromide in 200 ml of diethyl ether. After reflux for 1 h the mixture was treated with a saturated aqueous solution of NH4Cl and distilled to give 48.79 g (88%) of (3-bromopropyl)methyldibutyltin; b.p. 88°-90° C./0.1 mm Hg, nD20 =1.5001.

reactant | butylmagnesium bromide | 2.7 N, 115 ml | C(CCC)[Mg]Br
reactant | (3-bromopropyl)methyltin dibromide | 0.15 mol, 62.5 g | BrCCC[Sn](C)(Br)Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | (3-bromopropyl)methyldibutyltin | 48.79 g, 88% | BrCCC[Sn](CCCC)(CCCC)C | InChI=1S/2C4H9.C3H6Br.CH3.Sn/c2*1-3-4-2;1-2-3-4;;/h2*1,3-4H2,2H3;1-3H2;1H3;
